US07777047B2
4-methyl-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide
A mixture of 4-methyl-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide (1.78 g), Lawesson's reagent (2.26 g) and tetrahydrofuran (120 ml) was stirred at 60° C. for 2 hr. The reaction solution was concentrated under reduced pressure, and the obtained oil was crystallized from dichloromethane-toluene to give the title compound (1.56 g, yield 84%) as pale-yellow crystals. MS: 366 (MH+).

reactant | 4-methyl-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide | 1.78 g | CC1=C2C=C(NC2=C(C=C1)N(S(=O)(=O)C=1SC=CC1)C)C(=O)N | C15H15N3O3S2
reactant | Lawesson's reagent | 2.26 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 4-methyl-7-[methyl(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide | 1.56 g, yield 84% | CC1=C2C=C(NC2=C(C=C1)N(S(=O)(=O)C=1SC=CC1)C)C(N)=S | C15H15N3O2S3
